US09085575B2
250 mg (1.02 mmol) of ethyl 3-oxo-3-(2,3,6-trifluorophenyl)propanoate, 295 mg (1.02 mmol) of tert-butyl 4-(4-formylphenyl)piperazine-1-carboxylate, 168 mg (1.02 mmol) of 3-(thiophen-2-yl)-1H-pyrazol-5-amine and 196 mg (2.54 mmol) of ammonium acetate are added to a test tube which is then sealed. The mixture is carried without solvent at 120° C. for 1 hour. After returning to room temperature, the solid is dissolved in a water/ethyl acetate mixture. The phases are separated and the aqueous phase is extracted several times with ethyl acetate. The organic phases are combined, dried on magnesium sulfate and concentrated. The residue is purified by silica gel chromatography (eluent: 6:4 cyclohexane/ethyl acetate) to yield 300 mg (44%) of ethyl 4-(4-(4-(tert-butoxycarbonyl)piperazin-1-yl)phenyl)-3-(thiophen-2-yl)-6-(2,3,6-trifluorophenyl)-4,7-dihydro-1H-pyrazolo[3,4-b]pyridine-5-carboxylate in the form of a light yellow powder.

reactant | ethyl 3-oxo-3-(2,3,6-trifluorophenyl)propanoate | 1.02 mmol, 250 mg | O=C(CC(=O)OCC)C1=C(C(=CC=C1F)F)F | C11H9F3O3
reactant | tert-butyl 4-(4-formylphenyl)piperazine-1-carboxylate | 1.02 mmol, 295 mg | C(=O)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C16H22N2O3
reactant | 3-(thiophen-2-yl)-1H-pyrazol-5-amine | 1.02 mmol, 168 mg | S1C(=CC=C1)C1=NNC(=C1)N | C7H7N3S
reactant | ammonium acetate | 2.54 mmol, 196 mg | C(C)(=O)[O-].[NH4+]
solvent | water ethyl acetate | O.C(C)(=O)OCC
product | ethyl 4-(4-(4-(tert-butoxycarbonyl)piperazin-1-yl)phenyl)-3-(thiophen-2-yl)-6-(2,3,6-trifluorophenyl)-4,7-dihydro-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 300 mg, 44% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C1C2=C(NC(=C1C(=O)OCC)C1=C(C(=CC=C1F)F)F)NN=C2C=2SC=CC2 | C34H34F3N5O4S
